US08877779B2
1-[1-(3-cyanoacenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one
1-[1-(3-Bromoacenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one (1.25 g) was dissolved in N,N-dimethylformamide (16 ml), zinc cyanide (380 mg) and tetrakistriphenylphosphinepalladium (1.6 g) were added, and the mixture was stirred at 110° C. for 1 hr. After allowing to cool, water and ethyl acetate were poured into the reaction mixture, and the mixture was subjected to celite filtration. The filtrate was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography, and recrystallized from acetone to give the title compound (1.0 g).

reactant | 1-[1-(3-Bromoacenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 1.25 g | BrC1=C2CC(C=3C=CC=C(C=C1)C32)N3CCC(CC3)N3C(NC2=C3C=CC=C2)=O | C24H22BrN3O
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 380 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakistriphenylphosphinepalladium | 1.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[1-(3-cyanoacenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 1.0 g | C(#N)C1=C2CC(C=3C=CC=C(C=C1)C32)N3CCC(CC3)N3C(NC2=C3C=CC=C2)=O | C25H22N4O
